US07241798B2
1-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (racemic)
To Intermediate 19, one enantiomer being (1S,2S)-1-hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (0.40 g, 1.4 mmol) in THF (10 mL) at −78° C. was added potassium bis(trimethylsilyl)amide (0.5M/toluene, 4.1 mL, 2.1 mmol) dropwise and the mixture was stirred for an additional 5 minutes. 1-Iodomethyl-3,5-bis-trifluoromethyl-benzene (0.69 g, 1.9 mmol) in THF (4 mL) was added and the reaction stirred at −78° C. for 10 minutes, then allowed to warm to room temperature and stirred for 2 hours. Water was added cautiously and the solvent removed at reduced pressure. The residue was partitioned between H2O and EtOAc, the organics were washed with brine and dried over calcium sulfate, filtered and concentrated to an oil. The crude product was purified by flash chromatography by elution with a gradient of hexanes to 20% EtOAc/Hexanes to give the title compound (0.52 g, 73% yield).

reactant | (1S,2S)-1-hydroxymethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 1.4 mmol, 0.40 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@]2(CC2C1)CO)C1=CC=CC=C1 | C17H23NO3
reactant | potassium bis(trimethylsilyl)amide | 2.1 mmol, 0.5M, 4.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-Iodomethyl-3,5-bis-trifluoromethyl-benzene | 1.9 mmol, 0.69 g | ICC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5F6I
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 0.52 g, 73% yield | C(C)(C)(C)OC(=O)N1C(C2(CC2C1)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C26H27F6NO3
